US08030499B2
Step 47-1: 5-chloro-3-(2-methoxyphenyl)-3-[2-oxo-2-(4-pyridin-2-ylpiperazin-1-yl)ethyl]-1,3-dihydro-2H-indol-2-one
With 800 mg of [5-chloro-3-(2-methoxyphenyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]acetic acid, which is the compound described in Preparation 1.1 of the brochure Publication No. WO03/008407, and 433 mg of 1-pyridin-2-ylpiperazine as starting materials, 1.00 g of the title compound (colorless solid) was obtained by a similar method to Step 45-1.

reactant | [5-chloro-3-(2-methoxyphenyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]acetic acid | 800 mg | ClC=1C=C2C(C(NC2=CC1)=O)(C1=C(C=CC=C1)OC)CC(=O)O | C17H14ClNO4
reactant | 1-pyridin-2-ylpiperazine | 433 mg | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
product | 5-chloro-3-(2-methoxyphenyl)-3-[2-oxo-2-(4-pyridin-2-ylpiperazin-1-yl)ethyl]-1,3-dihydro-2H-indol-2-one | 1.00 g | ClC=1C=C2C(C(NC2=CC1)=O)(CC(N1CCN(CC1)C1=NC=CC=C1)=O)C1=C(C=CC=C1)OC | C26H25ClN4O3
